US04954518
There were mixed 29.7 g of 7-acetylamino-2,3-dihydro-6-phenoxy-4H-1-benzopyran-4-one, 30 ml of ethanol and 300 ml of 6N hydrochloric acid. The mixture was refluxed for 1 hour. The reaction mixture was introduced into 3 liters of ice water. The resulting crystal was collected by filtration and recrystallized from ethanol to obtain 23.5 g (yield: 92.2%) of 7-amino-2,3-dihydro-6-phenoxy-4H-1-benzopyran-4-one having a melting point of 154°-155° C.

reactant | 7-acetylamino-2,3-dihydro-6-phenoxy-4H-1-benzopyran-4-one | 29.7 g | C(C)(=O)NC1=CC2=C(C(CCO2)=O)C=C1OC1=CC=CC=C1 | C17H15NO4
reactant | hydrochloric acid | 6N, 300 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 7-amino-2,3-dihydro-6-phenoxy-4H-1-benzopyran-4-one | 23.5 g, yield: 92.2% | NC1=CC2=C(C(CCO2)=O)C=C1OC1=CC=CC=C1 | C15H13NO3
